US08357693B2
To tert-butyl 5-(2-(3-(1-methylpiperazine-4-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (165 mg, 0.22 mmol) was added a solution of 1:1 TFA:CH2Cl2 (6 mL) and stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and left under high vacuum for several hours. The crude product was purified by prep HPLC (method 25-50—70 mins) to afford N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-4-methylpiperazine-1-carboxamide. (88 mg, 69%)

reactant | tert-butyl 5-(2-(3-(1-methylpiperazine-4-carboxamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.22 mmol, 165 mg | CN1CCN(CC1)C(=O)NC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C32H34N8O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenyl)-4-methylpiperazine-1-carboxamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(C=CC1)NC(=O)N1CCN(CC1)C | C27H26N8O
